US06653334B1
Synthesis of tert-Butyl 2-[3-[3-(N-Benzoxazol-2-yl)aminopropyl]phenoxy]-2-methylpropionate
tert-Butyl 2-[3-(3-aminopropyl)phenoxy]-2-methylpropionate (167 mg, 0.57 mmol) was dissolved in tetrahydrofuran (3.0 mL). Subsequently, diisopropylethylamine (73.6 mg, 0.57 mmol) and then 2-chlorobenzoxazole (96.2 mg, 0.63 mmol) were added dropwise thereto, and the mixture was stirred for four hours at room temperature. Water was added thereto, and the resultant mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, followed by drying over sodium sulfate, concentration under reduced pressure, and purification by silica gel chromatography (n-hexane/ethyl acetate=3/1), whereby the target compound was obtained (173 mg, 74%).

reactant | tert-Butyl 2-[3-(3-aminopropyl)phenoxy]-2-methylpropionate | 0.57 mmol, 167 mg | NCCCC=1C=C(OC(C(=O)OC(C)(C)C)(C)C)C=CC1 | C17H27NO3
reactant | diisopropylethylamine | 0.57 mmol, 73.6 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chlorobenzoxazole | 0.63 mmol, 96.2 mg | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | Water | O | H2O
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | tert-Butyl 2-[3-[3-(N-Benzoxazol-2-yl)aminopropyl]phenoxy]-2-methylpropionate | O1C(=NC2=C1C=CC=C2)NCCCC=2C=C(OC(C(=O)OC(C)(C)C)(C)C)C=CC2 | C24H30N2O4
